US04000142
3-Methyl-5,6,7,8-tetrahydroquinoline-8-carboxamide
A solution of 3-methyl-5,6,7,8-tetrahydroquinoline (7.3 g., 0.05 mol.) in hexane (50 ml.) was cooled to 0° C and treated dropwise with 15w/w butyllithium in hexane (26 ml., 0.06 mol.) in a nitrogen atmosphere. The reaction mixture was allowed to stand at 0° C for 1 hour and was then added dropwise over 30 minutes to a solution of trimethylsilylisocyanate (19.5 g., 0.17 mol.) in hexane (50 ml.) keeping the internal temperature at -20° C. The reaction mixture was allowed to stand at -20° C for 1 hour and was then diluted with water (50 ml.) and the pH adjusted to 2.0 with conc. HCl. The hexane layer was separated and discarded and the aqueous solution adjusted to pH 10.0 with sodium carbonate and extracted with chloroform (3 × 25 ml.). The combined extracts were washed with saturated brine, dried and the solvent removed in vacuo. The residue was triturated with n-hexane, filtered and the solid crystallised from ethyl acetate to give the title compound as colourless needles (3.1 g., 35%) m.p. 104° C. identical in all respects to the authentic material (when crystallised from ethyl acetate). Analysis: Found C, 69.1; 7.4; N, 14.7. C11H14N2O requires C, 69.5; H, 7.4; N, 14.7. The hexane soluble material was distilled to give recovered 3-methyl-5,6,7,8-tetrahydroquinoline (4.2 g.) b.p. 120°/15 mm.

reactant | 3-methyl-5,6,7,8-tetrahydroquinoline | 0.05 mol, 7.3 g | CC=1C=NC=2CCCCC2C1 | C10H13N
reactant | butyllithium | C(CCC)[Li]
reactant | trimethylsilylisocyanate | 0.17 mol, 19.5 g | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | HCl | Cl | ClH
solvent | hexane | 50 ml | CCCCCC | C6H14
solvent | hexane | 50 ml | CCCCCC | C6H14
solvent | water | 50 ml | O | H2O
solvent | hexane | 0.06 mol, 26 ml | CCCCCC | C6H14
product | 3-Methyl-5,6,7,8-tetrahydroquinoline-8-carboxamide | 3.1 g, 35% | CC=1C=NC=2C(CCCC2C1)C(=O)N | C11H14N2O
